US08937041B2
ethyl 2-(benzofuran-2-yl)-2-oxoacetate
To a solution of benzofuran (0.250 mL, 2.32 mmol) in tetrahydrofuran (12.5 mL) stiffing at −100° C. (CO2, ether bath) was added n-BuLi (1.377 mL, 2.203 mmol, 1.6 M in hexanes). The reaction was stirred for 30 min (yellow color) and added dropwise via a canulated into a solution of diethyl oxalate (0.314 mL, 2.32 mmol) in tetrahydrofuran (7 mL) stiffing at −100° C. The reaction mixture was stirred for 1 h and then quenched with saturated aqueous ammonium chloride solution. The mixture was warmed to rt, diluted with dichloromethane, and washed with 0.1 N HCl. The organic layer was separated, dried over anhydrous magnesium sulfate, filtered, and evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel (eluted with dichloromethane). The fractions containing the title compound were collected and repurified by flash chromatography on silica gel (25% acetone/hexane) to provide the title compound (ethyl 2-(benzofuran-2-yl)-2-oxoacetate, 237 mg, 47% yield).

reactant | benzofuran | 2.32 mmol, 0.250 mL | O1C=CC2=C1C=CC=C2 | C8H6O
reactant | CO2 | C(=O)=O | CO2
reactant | n-BuLi | 2.203 mmol, 1.6 M, 1.377 mL | [Li]CCCC
reactant | diethyl oxalate | 2.32 mmol, 0.314 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | tetrahydrofuran | 12.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | ethyl 2-(benzofuran-2-yl)-2-oxoacetate | 237 mg, 47% yield | O1C(=CC2=C1C=CC=C2)C(C(=O)OCC)=O | C12H10O4
